US07253186B2
Methyl (4-hydroxyphenyl)acetate (500 mg, 3.0 mmol) was dissolved in DMF (3 mL). K2CO3(829 mg, 6.0 mmol) was added followed by isobutylene oxide (800 μL, 9.0 mmol). The mixture was heated to 150° C. by microwave irradiation for 30 min and concentrated. The residue was dissolved in a 1:1 mixture of methanol and water (20 mL). NaOH (1 g) was added and the mixture was stirred for 30 min. Methanol was removed by rotary evaporation. The aqueous phase was acidified by 4 M HCl and extracted with dichloromethane (2×50 mL). The combined organic phases were extracted with 2 M NaOH (2×50 mL). The combined aqueous phases were subsequently acidified by 4 M HCl and extracted with dichloromethane (2×50 mL). The combined organic phases were dried over Na2SO4, filtered and evaporated to afford [4-(2-hydroxy-2-methylpropoxy)phenyl]acetic acid (106MBT52-D, 470 mg, 70%) as a colourless solid. 1H-NMR (CDCl3): δ 7.19 (m, 2H), 6.88 (m, 2H), 3.78 (s, 2H), 3.57 (s, 2H), 1.34 (s. 6H).

reactant | Methyl (4-hydroxyphenyl)acetate | 3.0 mmol, 500 mg | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | K2CO3 | 6.0 mmol, 829 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | isobutylene oxide | 9.0 mmol, 800 μL | CC1(C)CO1 | C4H8O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | [4-(2-hydroxy-2-methylpropoxy)phenyl]acetic acid | 470 mg, 70% | OC(COC1=CC=C(C=C1)CC(=O)O)(C)C | C12H16O4
